US05017724
4.54 Grams of 8-methoxy-9-methoxymethylene-5-methyl-1,2,3,4,4a,9a-hexahydrofluorene was dissolved in 200 ml of 1,4-dioxane and 50 ml of water. To the solution was added 0.90 g of p-toluenesulfonic acid monohydrate and this was refluxed for 18 hours. To the reaction mixture was added 200 ml of water and extraction was carried out with diethyl ether. The organic layer was dried with magnesium sulfate, filtered and concentrated and the residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:10) and recrystallized from ethanol to obtain 3.94 g of 9-formyl-8-methoxy-5-methyl-1,2,3,4,4a,9a-hexahydrofluorene having a melting point of 92°-93° C. and of colorless needle-like crystal.

reactant | 8-methoxy-9-methoxymethylene-5-methyl-1,2,3,4,4a,9a-hexahydrofluorene | COC=1C=CC(=C2C3CCCCC3C(C12)=COC)C | C17H22O2
reactant | p-toluenesulfonic acid monohydrate | 0.90 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 9-formyl-8-methoxy-5-methyl-1,2,3,4,4a,9a-hexahydrofluorene | 3.94 g | C(=O)C1C2=C(C=CC(=C2C2CCCCC12)C)OC | C16H20O2
